US05654326
5-Methoxy-1H-indole (5.6 g, 21.5 mmol) was reacted with 1.0 g (25 mmol) of 60% sodium hydride and then 3.0 mL (25 mmol) of benzyl bromide by the method described in Example 12, Part D to give crude 5-methoxy-1-(phenylmethyl)-1H-indole. This material was dissolved in 250 mL of methylene chloride, cooled to -5° C., 50 mL of 1M BBr3 /CH2Cl2 added, the cooling bath removed and the mixture stirred for 1.75 hours. Ice water was added and the mixture stirred. The organic layer was separated, washed wish saturated NaCl, dried (Na2SO4), and concentrated at reduced pressure. The residue was chromatographed on silica gel and eluted with 20% ether/hexane→ether to give 870 mg (19% overall yield) of crude 5-hydroxy-1-(phenylmethyl)-1H-indole.

reactant | 5-Methoxy-1H-indole | 21.5 mmol, 5.6 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | benzyl bromide | 25 mmol, 3.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | BBr3 CH2Cl2 | 1M, 50 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-1-(phenylmethyl)-1H-indole | 870 mg, 19% | OC=1C=C2C=CN(C2=CC1)CC1=CC=CC=C1 | C15H13NO
